US05888940
4,6-Dichlorobenzothiazole
A solution of 98 mmol of methyl magnesium chloride in tetrahydrofruan was added dropwise to a solution of 14 g (49 mmol) of 2-bromo-4,6-dichlorobenzothiazole in 200 ml of tetrahydrofuran, which solution had been cooled to -78° C. After 2 hours, acidification was effected with 10% strength hydrochloric acid and the product was then extracted with diethyl ether. The organic phase was washed with water, saturated aqueous sodium bicarbonate solution and water, dried over sodium sulfate and finally evaporated down. Purification of the crude product was effected by means of silica gel chromatography (eluent: 5:1 petroleum ether/methyl tert-butyl ether). Yield: 5.2 g.

reactant | methyl magnesium chloride | 98 mmol | C[Mg]Cl
reactant | 2-bromo-4,6-dichlorobenzothiazole | 49 mmol, 14 g | BrC=1SC2=C(N1)C(=CC(=C2)Cl)Cl | C7H2BrCl2NS
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4,6-Dichlorobenzothiazole | ClC1=CC(=CC2=C1N=CS2)Cl | C7H3Cl2NS
